US06197967B1
Methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
50 g (200 mmol) of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid and 1,22 g (10 mmol) of N,N-dimethylpyridine are dissolved in 200 ml of methanol and refluxed for 5 hours. Removal of 150 ml of methanol by distillation gives 43.4 g (165 mmol, 83%) of product.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 200 mmol, 50 g | CC1(OB(OC1(C)C)C1=CC=C(C(=O)O)C=C1)C | C13H17BO4
reactant | methanol | 200 ml | CO | CH4O
product | Methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 165 mmol, 43.4 g, 83% | CC1(OB(OC1(C)C)C1=CC=C(C(=O)OC)C=C1)C | C14H19BO4
